US07834194B2
3-[3-Chloro-6-(3-dimethylamino-propoxy)-benzo[b]thiophen-2-ylmethyl]-1-cyclohexyl-pyrrolidin-2-one hydrochloride salt
Using the procedure to synthesize Example 12 and using reagents 3-(3-chloro-6-hydroxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one (150 mg, 0.412 mmol), (3-bromo-propyl)-dimethyl-amine hydrochloride (167 mg, 0.824 mmol), sodium iodide (62 mg, 0.412 mmol), and cesium carbonate (1.07 g, 3.30 mmol) afford the freebase of the title compound. Dissolve freebase in dichloromethane (5 mL) and add HCl in ether (2M, 0.4 mL), concentrate to give title compound (105 mg, 52%) as a yellow solid: Mass spectrum (apci) m/z=449.3 (M+H).

reactant | 3-(3-chloro-6-hydroxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one | 0.412 mmol, 150 mg | ClC=1C2=C(SC1CC1C(N(CC1)C1CCCCC1)=O)C=C(C=C2)O | C19H22ClNO2S
reactant | (3-bromo-propyl)-dimethyl-amine hydrochloride | 0.824 mmol, 167 mg | Cl.BrCCCN(C)C
reactant | sodium iodide | 0.412 mmol, 62 mg | [I-].[Na+]
reactant | cesium carbonate | 3.30 mmol, 1.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 3-[3-Chloro-6-(3-dimethylamino-propoxy)-benzo[b]thiophen-2-ylmethyl]-1-cyclohexyl-pyrrolidin-2-one hydrochloride salt | Cl.ClC=1C2=C(SC1CC1C(N(CC1)C1CCCCC1)=O)C=C(C=C2)OCCCN(C)C | InChI=1S/C24H33ClN2O2S.ClH/c1-26(2)12-6-14-29-19-9-10-20-21(16-19)30-22(23(20)25)15-17-11-13-27(24(17)28)18-7-4-3-5-8-18;/h9-10,16-18H,3-8,11-15H2,1-2H3;1H
